US06727264B1
N-(3-{1-[3-(4-BROMOPHENYL)-3-PHENOXYPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and phenol: ESMS m/e: 535.0 (M+H)+.

reactant | N-(3-{1-[3-(4-bromophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C24H31BrN2O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | N-(3-{1-[3-(4-BROMOPHENYL)-3-PHENOXYPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=CC=CC=C1 | C30H35BrN2O2
